US04125732
2-(p-Fluorophenoxy)-1-propanol
To 95 ml of 1 Molar diborane in tetrahydrofuran is added 10.2 g of 2-(p-fluorophenoxy)propionic acid in 100 ml of tetrahydrofuran. The mixture is stirred at room temperature for 20 hrs. and poured onto 600 g of ice. The mixture is extracted with chloroform and the chloroform extracts dried (MgSO4). The solvent is removed under vacuum and the residual liquid distilled to give 8.7 g of colorless liquid.

reactant | diborane | 1 Molar, 95 ml | B#B | B2
reactant | 2-(p-fluorophenoxy)propionic acid | 10.2 g | FC1=CC=C(OC(C(=O)O)C)C=C1 | C9H9FO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(p-Fluorophenoxy)-1-propanol | 8.7 g | FC1=CC=C(OC(CO)C)C=C1 | C9H11FO2
